US04977184
4.5 g of ethyltriphenylphosphonium bromide and 1.8 ml of N,N,N',N'-tetramethyl-ethylenediamine are cooled to 0° in 300 ml of tetrahydrofuran under argon. 7.5 ml of n-butyllithium (1.6M in hexane) are then added dropwise thereto while stirring and the mixture is stirred for a further 1 hour without cooling with ice. The red solution is cooled to -70°, whereupon 1.52 g of (S)-5-acetyl-2-methyl- 2-cyclohexen-1-one dissolved in 10 ml of tetrahydrofuran are added dropwise thereto during 15 minutes. The cooling bath is removed and the mixture is stirred for a further 45 minutes. After adding 20 ml of water the mixture is evaporated. The residue is taken up in ether and extracted twice with 0.3N sulphuric acid and twice with saturated sodium chloride solution. The ether phase is dried over sodium sulphate and evaporated. The crude product is purified by flash chromatography on silica gel while eluting with hexane/methylene chloride (1:1). There is obtained (5S)-2-methyl-5-[(Z)-1-methylpropenyl]-2-cyclohexen-1-one as a colourless oil [mass spectrum: peaks inter alia at m/e 164 (M+), 149 (M+ -15,CH3), 135 (M+ -29,COH), 82 and 54].

reactant | N,N,N',N'-tetramethyl-ethylenediamine | 1.8 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 1.6M, 7.5 ml | C(CCC)[Li]
reactant | (S)-5-acetyl-2-methyl- 2-cyclohexen-1-one | 1.52 g | C(C)(=O)[C@H]1CC=C(C(C1)=O)C | C9H12O2
catalyst | ethyltriphenylphosphonium bromide | 4.5 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (5S)-2-methyl-5-[(Z)-1-methylpropenyl]-2-cyclohexen-1-one | CC=1C(C[C@H](CC1)\C(=C/C)\C)=O | C11H16O
